US06916819B2
A solution of 3-amino-4-n-propylaminobenzonitrile (7.38 g, 42.1 mmol) and ethyl chloroacetimidate hydrochloride (9.92 g, 63.2 mmol) in ethanol (100 mL) is heated at reflux for 17 h, then cooled and concentrated to give 1-n-Propyl-2-chloromethyl-5-cyanobenzimidazole hydrochloride. Prior to use in the next step, this material is converted to free base by adding aqueous bicarbonate and extracting with dichloromethane, drying (Na2SO4), and concentrating. ii) Alternatively, chloroacetylchloride rather than ethyl chloroacetimidate can by used: To a solution of 3-amino-4-n-propylaminobenzonitrile (5.15 g, 29.4 mmol) and triethylamine (4.51 mL) in ethyl acetate (52 mL) at room temperature, chloroacetyl chloride (2.57 mL) is added slowly. After stirring the reaction mixture for 30 minutes at room temperature, acetic acid (5 mL) is added and the reaction mixture heated to reflux. After heating for 20 h, the reaction mixture is cooled to room temperature and diluted with water (50 mL). The organic solution is washed twice with 1.0 M sodium hydroxide (2×50 mL), then washed with an aqueous solution of 0.25 M KH2PO4 (50 mL), followed by brine (50 mL). The organic layer is dried (sodium sulfate), concentrated in vacuo, and the solid recrystallized by heating in ethyl acetate (20 mL), adding hexane (40 mL) and cooling to room temperature with stirring to afford 1-n-Propyl-2-chloromethyl-5-cyanobenzimidazole as brown crystals. 1H NMR (CDCl3): δ 8.08 (d, J=0.8 Hz, 1H), 7.57 (dd, J=1.65, 8.52 Hz, 1H), 7.45 (d, J=8.24 Hz, 1H), 7.26 (s, 1H), 4.84 (s, 2H), 4.24 (t, J=7.6 Hz, 2H), 1.94 (pentet, J=7.4. 7.6 Hz, 2H), 1.03 (t, J=7.4 Hz, 3H). (B) Preparation of 1-Propyl-2-{([2-(2-fluoropyrid-6-yl)-1H-imidazol-1-yl]methyl}-5-cyano-1H-benzimidazole

reactant | 3-amino-4-n-propylaminobenzonitrile | 42.1 mmol, 7.38 g | NC=1C=C(C#N)C=CC1NCCC | C10H13N3
reactant | ethyl chloroacetimidate hydrochloride | 63.2 mmol, 9.92 g | Cl.ClCC(OCC)=N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-n-Propyl-2-chloromethyl-5-cyanobenzimidazole hydrochloride | Cl.C(CC)N1C(=NC2=C1C=CC(=C2)C#N)CCl | InChI=1S/C12H12ClN3.ClH/c1-2-5-16-11-4-3-9(8-14)6-10(11)15-12(16)7-13;/h3-4,6H,2,5,7H2,1H3;1H
